US06479487B1
1-(2,6-Dichlorobenzyl)-4-piperidone oxime is prepared from 1-(2,6-dichlorobenzyl)-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(2,6-dichlorobenzyl)-4-piperidone | ClC1=C(CN2CCC(CC2)=O)C(=CC=C1)Cl | C12H13Cl2NO
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(2,6-Dichlorobenzyl)-4-piperidone oxime | ClC1=C(CN2CCC(CC2)=NO)C(=CC=C1)Cl | C12H14Cl2N2O
